US08877760B2
A mixture of (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-4-methylpentanamide (80 mg, 0.299 mmol), 4-amino-N-methyl-indole (62 mg, 0.424 mmol), K2CO3 (65 mg, 0.471 mmol), BINAP (25 mg, 0.040 mmol) and Pd(OAc)2 (10 mg, 0.044 mmol) in dioxane (2 mL) was degassed with Ar, then was stirred at 100 C for 20 h. Water and EtOAc were added. Organic phase was separated, dried over Na2SO4, concentrated in vacuo to give (R)-2-(5-cyano-6-(1-methyl-1H-indol-4-ylamino)pyrazin-2-ylamino)-4-methylpentanamide as a crude residue (151 mg).

reactant | (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-4-methylpentanamide | 0.299 mmol, 80 mg | ClC1=C(N=CC(=N1)N[C@@H](C(=O)N)CC(C)C)C#N | C11H14ClN5O
reactant | 4-amino-N-methyl-indole | 0.424 mmol, 62 mg | NC1=C2C=CN(C2=CC=C1)C | C9H10N2
reactant | K2CO3 | 0.471 mmol, 65 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | BINAP | 0.040 mmol, 25 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.044 mmol, 10 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-2-(5-cyano-6-(1-methyl-1H-indol-4-ylamino)pyrazin-2-ylamino)-4-methylpentanamide | C(#N)C=1N=CC(=NC1NC1=C2C=CN(C2=CC=C1)C)N[C@@H](C(=O)N)CC(C)C | C20H23N7O
